US05441969
2-Amino-1-[6-(2-hydroxypyridyl)phenyl]benzimidazole hydrochloride was prepared from 2-amino-1-[6-(2-methoxypyridyl)phenyl]benzimidazole by refluxing in 25% aqueous hydrochloric acid. mp 215°-217° C.

reactant | 2-amino-1-[6-(2-methoxypyridyl)phenyl]benzimidazole | NC1=NC2=C(N1C1=CC=CC=C1C=1C(=NC=CC1)OC)C=CC=C2 | C19H16N4O
reactant | hydrochloric acid | Cl | ClH
product | 2-Amino-1-[6-(2-hydroxypyridyl)phenyl]benzimidazole hydrochloride | Cl.NC1=NC2=C(N1C1=CC=CC=C1C=1C(=NC=CC1)O)C=CC=C2 | InChI=1S/C18H14N4O.ClH/c19-18-21-14-8-2-4-10-16(14)22(18)15-9-3-1-6-12(15)13-7-5-11-20-17(13)23;/h1-11H,(H2,19,21)(H,20,23);1H
